US06239074B1
3-(4-Chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.1)
5 ml of water were added to a solution of 1.9 g of 3-(4-chloro-3-(1,3-dioxolan-2-yl)-phenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine in 45 ml of glacial acetic acid. After stirring had been carried out for 12 hours at about 20-25° C. and for a further 5 hours at 40-50° C., 150 ml of water were stirred into the mixture. Thereafter, the precipitate formed was isolated, washed with water and petroleum ether and dried.

reactant | water | 5 ml | O | H2O
reactant | 3-(4-chloro-3-(1,3-dioxolan-2-yl)-phenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 1.9 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C1OCCO1 | C15H12ClF3N2O4
reactant | water | 150 ml | O | H2O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
